US09375000B2
Step 1: Synthesis of 1-{6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(tri-fluoromethyl)pyridin-3-yl}methanamine
{6-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)pyridin-3-yl}methanol (Reference document: WO2010/043315) (1.8 g) and triethylamine (0.5 g) were dissolved in acetonitrile (30 mL), and an acetonitrile (10 mL) solution of methanesulfonyl chloride (0.5 g) was added dropwise thereto under ice cooling. Upon the completion of the dropwise addition, the reaction solution was stirred at room temperature for 1 hour, and then the resulting solution was added dropwise to a mixture solution containing 28% ammonia water (50 mL) and acetonitrile (200 mL), which had been prepared separately, under ice cooling. After stirring at room temperature for 12 hours, the reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate. The solvent was distilled off and the purification was carried out by silica gel chromatography to obtain the title compound (1.25 g).

reactant | {6-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)pyridin-3-yl}methanol | 1.8 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CO)C(F)(F)F | C18H13Cl3F6N2O
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia water | 50 mL | O.N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-{6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(tri-fluoromethyl)pyridin-3-yl}methanamine | 1.25 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CN)C(F)(F)F | C18H14Cl3F6N3
